US07592373B2
3.45.a. 4-methyl-1-[2-(4-nitrophenoxy)ethyl]piperidine
200 mg (4.2 mmol) of sodium hydride (55%) is added at 0° C. to a solution of 0.54 g (3.83 mmol) of 1-fluoro-4-nitrobenzene and 0.6 g (4.2 mmol) of 2-(4-methylpiperidin-1-yl)ethanol in 10 mL of DMF under an argon atmosphere. The reaction mixture is stirred for 2 hours at 0° C. and then stirred for a further 1.5 hours at ambient temperature. The reaction mixture is evaporated down and the residue is extracted between water and ethyl acetate. The organic phase is dried, the desiccant is filtered off and the filtrate is evaporated down. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/methanol (9:1)). Yield: 700 mg (69% of theory); C14H20N2O3 (M=264.32); calc.: molecular ion peak (M+H)+: 265; found: molecular ion peak (M+H)+: 265; Rf value: 0.7 (silica gel, dichloromethane/methanol (9:1)).

reactant | sodium hydride | 4.2 mmol, 200 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 3.83 mmol, 0.54 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-(4-methylpiperidin-1-yl)ethanol | 4.2 mmol, 0.6 g | CC1CCN(CC1)CCO | C8H17NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-methyl-1-[2-(4-nitrophenoxy)ethyl]piperidine | CC1CCN(CC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O3
